US06218397B1
A. 2-(2-Ethyl-butyryl)-3-ethoxy-but-2-enenitrile
A mixture of 4-ethyl-3-oxo-hexanenitrile (1.013 g, 7.28 mmol), acetic anhydride (1.5 ml) and triethyl orthoacetate (1.240 g, 7.64 mmol) was heated to reflux overnight. The reaction mixture was taken up in ethyl acetate and water. The brine and the ethyl acetate layer were separated. The organic layer was dried and concentrated to give 1.262 g of dry oil which was used directly for the next reaction. 1H NMR (CDCl3): 0.8-1.0(m,6H), 1.44(t,3H), 1.4-1.8(m,4H), 2.61(s,3H), 3.03(m,1H), 4.28(q, 2H)ppm.

reactant | 4-ethyl-3-oxo-hexanenitrile | 7.28 mmol, 1.013 g | C(C)C(C(CC#N)=O)CC | C8H13NO
reactant | acetic anhydride | 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl orthoacetate | 7.64 mmol, 1.240 g | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(2-Ethyl-butyryl)-3-ethoxy-but-2-enenitrile | 1.262 g | C(C)C(C(=O)C(C#N)=C(C)OCC)CC | C12H19NO2
